US07956191B2
2-Chloro-3-(2-fluoro-4-iodo-phenylamino)-isonicotinamide was synthesized according to the procedure for General Method 1, outlined above, starting with 0.2 mmol of 2-Chloro-3-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid and 0.5 mmol of ammonium acetate. LC/MS [8.61 min; 392 (M+1)].

reactant | 2-Chloro-3-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid | 0.2 mmol | ClC=1C(=C(C(=O)O)C=CN1)NC1=C(C=C(C=C1)I)F | C12H7ClFIN2O2
reactant | ammonium acetate | 0.5 mmol | C(C)(=O)[O-].[NH4+]
product | 2-Chloro-3-(2-fluoro-4-iodo-phenylamino)-isonicotinamide | ClC=1C(=C(C(=O)N)C=CN1)NC1=C(C=C(C=C1)I)F | C12H8ClFIN3O
